US07678834B2
A solution of benzo[b]thiophene (1.50 mg, 3.73 mmol) in 20 ml dry THF was cooled to −5° C. under a stream of argon. tert-Butyllithium (4.47 mmol, 2.63 ml of a 1.7 molar pentane solution) was then added dropwise such that a reaction temperature of 0° C. was not exceeded during the addition. When the addition had ended the reaction mixture was stirred for two hours at 0° C. Thereafter, a solution of 4-benzyl-4-dimethylaminocyclohexanone (3.86 mg, 3.73 mmol) in dry THF (8 ml) was added dropwise at 0° C. The mixture was stirred for 15 minutes at 0° C. and then for five hours at room temperature. The reaction mixture was quenched with saturated ammonium chloride solution (30 ml), the organic phase was separated and the aqueous phase was extracted four times with methylene chloride (25 ml). The combined organic phases were dried over sodium sulfate and filtered and the solvent was removed in vacuo. Purification was carried out by means of flash chromatography over silica gel with cyclohexane/ethyl acetate (v/v=9:1). 517 mg 1-benzo[b]thiophen-2-yl-4-benzyl-4-dimethylaminocyclohexanol with a melting point of 128-131° C. were obtained.

reactant | benzo[b]thiophene | 3.73 mmol, 1.50 mg | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | tert-Butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.7 molar | CCCCC | C5H12
reactant | 4-benzyl-4-dimethylaminocyclohexanone | 3.73 mmol, 3.86 mg | C(C1=CC=CC=C1)C1(CCC(CC1)=O)N(C)C | C15H21NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-benzo[b]thiophen-2-yl-4-benzyl-4-dimethylaminocyclohexanol | 517 mg | S1C2=C(C=C1C1(CCC(CC1)(N(C)C)CC1=CC=CC=C1)O)C=CC=C2 | C23H27NOS
